### PR TITLE
feat: `List` lemmas for `tail`/`dropLast` almost commuting with `take`/`drop`

### LINKED ISSUE #12910: RFC: `List` lemmas for `tail`/`dropLast` applied to `take`/`drop`
### Proposal

I propose adding these lemmas:
```lean
theorem tail_take (l : List α) (i : Nat) : (l.take i).tail = l.tail.take (i - 1) := by
  simp [← drop_one, drop_take]

theorem dropLast_take' (l : List α) (i : Nat) :
    (l.take i).dropLast = l.dropLast.take (i - 1) := by
  simp [dropLast_eq_take, take_take, Nat.sub_min_sub_right,
    Nat.le_trans (sub_le ..) (Nat.min_le_left ..)]

theorem tail_drop' (l : List α) (i : Nat) : (l.drop i).tail = l.tail.drop i := by
  simp

theorem dropLast_drop (l : List α) (i : Nat) : (l.drop i).dropLast = l.dropLast.drop i := by
  simp [dropLast_eq_take, Nat.sub_right_comm, drop_take]
```

### Community Feedback

[#Is there code for X? > List.tail/List.dropLast + List.take](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/List.2Etail.2FList.2EdropLast.20.2B.20List.2Etake/with/572294698)
(Kim supported adding these to core)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by SnirBroshi**
This PR adds `List` lemmas showing that `tail`/`dropLast` commute with `take`/`drop`, modulo decreasing the argument of `take`.

Closes #12910

[#Is there code for X? > List.tail/List.dropLast + List.take](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/List.2Etail.2FList.2EdropLast.20.2B.20List.2Etake/with/572294698)
[#PR reviews > lean#12976 - &#96;tail&#96;/&#96;dropLast&#96; + &#96;take&#96;/&#96;drop&#96; List lemmas](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/lean.2312976.20-.20.60tail.60.2F.60dropLast.60.20.2B.20.60take.60.2F.60drop.60.20List.20lemmas/with/581589659)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
changelog-library

File: src/Init/Data/List/Nat/TakeDrop.lean [hunk 1]
```diff
@@ -197,6 +197,11 @@ theorem dropLast_take {i : Nat} {l : List α} (h : i < l.length) :
     (l.take i).dropLast = l.take (i - 1) := by
   simp only [dropLast_eq_take, length_take, Nat.le_of_lt h, Nat.min_eq_left, take_take, sub_le]
 
+theorem dropLast_take' (l : List α) (i : Nat) :
```
Comment (kim-em) [inline src/Init/Data/List/Nat/TakeDrop.lean]: I don't like theorems with primed names (obviously we have many: but let's avoid having more).

At a minimum, there needs to be a doc-string explaining the relationship with the unprimed theorem.

File: src/Init/Data/List/TakeDrop.lean [hunk 2]
```diff
@@ -126,6 +126,9 @@ theorem tail_drop {l : List α} {i : Nat} : (l.drop i).tail = l.drop (i + 1) :=
 theorem drop_tail {l : List α} {i : Nat} : l.tail.drop i = l.drop (i + 1) := by
   rw [Nat.add_comm, ← drop_drop, drop_one]
 
+theorem tail_drop' (l : List α) (i : Nat) : (l.drop i).tail = l.tail.drop i := by
```
Comment (kim-em) [inline src/Init/Data/List/TakeDrop.lean]: Ditto.

File: src/Init/Data/List/Nat/TakeDrop.lean [hunk 3]
```diff
@@ -197,6 +197,11 @@ theorem dropLast_take {i : Nat} {l : List α} (h : i < l.length) :
     (l.take i).dropLast = l.take (i - 1) := by
   simp only [dropLast_eq_take, length_take, Nat.le_of_lt h, Nat.min_eq_left, take_take, sub_le]
 
+theorem dropLast_take_eq_take_dropLast (l : List α) (i : Nat) :
```
Comment (kim-em) [inline src/Init/Data/List/Nat/TakeDrop.lean]: Could you make the arguments implicit, for all four lemmas, to match the approach used in the rest of this file, unless there are exceptional reasons to keep them explicit?
